US08859777B2
A solution of methyl 3-[4-(3-benzyloxyphenyl)-4-fluoropiperidin-1-yl]propionate (100 mg, 0.27 mmol) in THF (5 mL) was cooled in an ice bath and a 2M solution of benzylmagnesium chloride in THF (0.338 mL, 0.68 mmol) added dropwise over 5 minutes. The resulting yellow solution was then stirred for 14 h during which time the reaction reached room temperature. The mixture was then quenched with 25% aqueous ammonium chloride solution (10 mL) and diluted with ethyl acetate (3×10 mL). The organic layers were then combined and dried over magnesium sulfate. Subsequent filtration, concentration and purification by silica gel chromatography (SiO2, 50% ethyl acetate/heptanes) afforded 3-[4-(3-benzyloxyphenyl)-4-fluoropiperidin-1-yl]-1,1-dibenzylpropan-1-ol as a clear viscous oil in 49% yield.

reactant | methyl 3-[4-(3-benzyloxyphenyl)-4-fluoropiperidin-1-yl]propionate | 0.27 mmol, 100 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCN(CC1)CCC(=O)OC)F | C22H26FNO3
reactant | benzylmagnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.68 mmol, 0.338 mL | C1CCOC1 | C4H8O
product | 3-[4-(3-benzyloxyphenyl)-4-fluoropiperidin-1-yl]-1,1-dibenzylpropan-1-ol | 49% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCN(CC1)CCC(O)(CC1=CC=CC=C1)CC1=CC=CC=C1)F | C35H38FNO2
